US05420130
N-(2-Aminoethyl) -2-[[3-[4-(5-chloro-2-methoxyphenyl)-piperazin-1-yl]propyl]amino]pyrazine-5-carboxamide
2 g (0.00365 mol) of 1,1-dimethylethyl 2-[[[2-[[3-[4-(5-chloro-2-methoxyphenyl)piperazin-1-yl]propyl]amino]pyrazin-5-yl]carbonyl]amino]ethylcarbamate are introduced into 10 ml of water in a 0.25 l round-bottomed flask and then 10 ml of concentrated hydrochloric acid are introduced dropwise. The mixture is cooled to 0° C. with an ice/salt/water mixture and 30% sodium hydroxide solution is added portionwise until the pH is basic. Extraction is carried out with dichloromethane, the organic phase is dried over sodium sulphate, filtered and the solvents are evaporated under reduced pressure and 1.32 g (0.00295 mol) of amorphous solid are obtained.

reactant | 1,1-dimethylethyl 2-[[[2-[[3-[4-(5-chloro-2-methoxyphenyl)piperazin-1-yl]propyl]amino]pyrazin-5-yl]carbonyl]amino]ethylcarbamate | 0.00365 mol, 2 g | ClC=1C=CC(=C(C1)N1CCN(CC1)CCCNC1=NC=C(N=C1)C(=O)NCCNC(OC(C)(C)C)=O)OC | C26H38ClN7O4
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | water | 10 ml | O | H2O
product | N-(2-Aminoethyl) -2-[[3-[4-(5-chloro-2-methoxyphenyl)-piperazin-1-yl]propyl]amino]pyrazine-5-carboxamide | NCCNC(=O)C=1N=CC(=NC1)NCCCN1CCN(CC1)C1=C(C=CC(=C1)Cl)OC | C21H30ClN7O2
